US08703941B2
A solution of 5-bromo-4-chloro-6-methylthieno[2,3-d]pyrimidine (79 mg, 0.30 mmol, 1.00 equiv) in anhydrous DMF (5 mL) was added cyclohexane-1,4-diamine (171 mg, 1.50 mmol, 5.00 equiv) and triethylamine (91 mg, 0.90 mmol, 3.00 equiv) successively at room temperature. The resulting solution was stirred overnight at ambient temperature and then quenched with water. The resulting solution was extracted with 3×20 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum to provide the resulted 1-N-[5-bromo-6-methylthieno[2,3-d]pyrimidin-4-yl]cyclohexane-1,4-diamine (90 mg, 88%) as a yellow solid.

reactant | 5-bromo-4-chloro-6-methylthieno[2,3-d]pyrimidine | 0.30 mmol, 79 mg, 1.00 equiv | BrC1=C(SC=2N=CN=C(C21)Cl)C | C7H4BrClN2S
reactant | cyclohexane-1,4-diamine | 1.50 mmol, 171 mg, 5.00 equiv | C1(CCC(CC1)N)N | C6H14N2
reactant | triethylamine | 0.90 mmol, 91 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-N-[5-bromo-6-methylthieno[2,3-d]pyrimidin-4-yl]cyclohexane-1,4-diamine | 90 mg, 88% | BrC1=C(SC=2N=CN=C(C21)NC2CCC(CC2)N)C | C13H17BrN4S
